US08912186B2
By a procedure similar to that of example 1.59.2, starting from 3-(4-phenylthiophen-2-yl)-1-(4-(trifluoromethyl)phenyl)prop-2-en-1-one and diethyl malonate, diethyl 2-(3-oxo-1-(4-phenylthiophen-2-yl)-3-(4-(trifluoromethyl)-phenyl)propyl)malonate was obtained as yellow oil.

reactant | 3-(4-phenylthiophen-2-yl)-1-(4-(trifluoromethyl)phenyl)prop-2-en-1-one | C1(=CC=CC=C1)C=1C=C(SC1)C=CC(=O)C1=CC=C(C=C1)C(F)(F)F | C20H13F3OS
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl 2-(3-oxo-1-(4-phenylthiophen-2-yl)-3-(4-(trifluoromethyl)-phenyl)propyl)malonate | O=C(CC(C=1SC=C(C1)C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C27H25F3O5S
